US06107458
A mixture of 1-(4-n-Hexyloxyphenyl)-4-piperidone (0.823 g), 1-(4-Ethoxycarbonylphenyl)piperazine (0.7 g), and titanium(IV) isopropoxide (1.11 ml) was stirred at room temperature. After 1 hour, the IR spectrum of the mixture showed no ketone band, and the viscous solution was diluted with absolute ethanol (3 ml). Sodium cyanoborohydride (0.121 g) was added, and the solution was stirred for 3 hours. Water (3 ml) was added with stirring, and the resulting in organic precipitate was filtered and washed with ethanol. The filtrate was extracted with ethyl acetate. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and filtrate was evaporated under reduced pressure to give Ethyl 4-[4-[1-(4-n-hexyloxyphenyl)piperidin-4-yl]piperazine-1-yl]benzoate (331 mg).

reactant | 1-(4-n-Hexyloxyphenyl)-4-piperidone | 0.823 g | C(CCCCC)OC1=CC=C(C=C1)N1CCC(CC1)=O | C17H25NO2
reactant | 1-(4-Ethoxycarbonylphenyl)piperazine | 0.7 g | C(C)OC(=O)C1=CC=C(C=C1)N1CCNCC1 | C13H18N2O2
reactant | Sodium cyanoborohydride | 0.121 g | C(#N)[BH3-].[Na+]
reactant | Water | 3 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | titanium(IV) isopropoxide | 1.11 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | Ethyl 4-[4-[1-(4-n-hexyloxyphenyl)piperidin-4-yl]piperazine-1-yl]benzoate | 331 mg | C(CCCCC)OC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C30H43N3O3
